US07776867B2
Synthesis of [1,3]Dioxolan-2-ylmethyl-(5,6-diphenyl-furo[2,3-d]pyrimidin-4-yl)-amine (213)
A stirred mixture of 4-amino-5,6-diphenylfuro[2,3-d]pyrimidine (100 mg, 0.34 mmol), 2-bromomethyl-1,3-dioxolane (116 mg, 0.69 mmol) and sodium hydroxide granules (42 mg, 1.05 mmol) in DMF (1.5 mL) was heated at 150° C. for 1 hour. The resulting mixture was filtered and purified by preparative HPLC to give a beige solid (73 mg). 1H NMR (CDCl3): 8.50 (1H, s), 7.62-7.49 (7H, m), 7.32-7.25 (3H, m), 5.70 (1H, br s), 5.00 (1H, br s), 3.85-3.63 (6H, m). LC/MS: 374 (MH+).

reactant | 4-amino-5,6-diphenylfuro[2,3-d]pyrimidine | 0.34 mmol, 100 mg | NC=1C2=C(N=CN1)OC(=C2C2=CC=CC=C2)C2=CC=CC=C2 | C18H13N3O
reactant | 2-bromomethyl-1,3-dioxolane | 0.69 mmol, 116 mg | BrCC1OCCO1 | C4H7BrO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | [1,3]Dioxolan-2-ylmethyl-(5,6-diphenyl-furo[2,3-d]pyrimidin-4-yl)-amine | 73 mg | O1C(OCC1)CNC=1C2=C(N=CN1)OC(=C2C2=CC=CC=C2)C2=CC=CC=C2 | C22H19N3O3
